US08383637B2
3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-N-(2,4,6-trimethyl-benzyl)-benzamide
A mixture of 3-(2-amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoyl chloride (0.0008 mol) in DCM (20 mL) was stirred at 0° C. and 2,4,6-trimethylbenzylamine (0.0013 mol) was added. Then TEA (q.s.) was added, and the reaction mixture was stirred at room temperature. The mixture was stirred in H2O and the organic layer was separated. The remaining layer was washed again with H2O, then the organic layer was separated, dried, and filtered, and the solvent was evaporated. The residue was purified by column chromatography over silica gel (gradient eluent: CH2Cl2:(CH3OH:NH3)). The purest product fractions were collected, and the solvent was evaporated. The residue was triturated under diisopropyl ether:CH3CN, and then the resulting solids were filtered off and dried to yield the title compound as a solid.

reactant | 3-(2-amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-benzoyl chloride | 0.0008 mol | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C(=O)Cl)C=CC1 | C18H18ClN3O2
reactant | 2,4,6-trimethylbenzylamine | 0.0013 mol | CC1=C(CN)C(=CC(=C1)C)C | C10H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | 3-(2-Amino-3-propyl-3,4-dihydro-quinazolin-6-yloxy)-N-(2,4,6-trimethyl-benzyl)-benzamide | NC1=NC2=CC=C(C=C2CN1CCC)OC=1C=C(C(=O)NCC2=C(C=C(C=C2C)C)C)C=CC1 | C28H32N4O2
